US04254135
Trans-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride.
A solution of 14 g (49.5 mmoles) of trans-4-chloro-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide in 150 ml of absolute ethanol was treated with ca. 0.5 g of palladium-on-charcoal catalyst and was shaken with hydrogen at 60° C. in the Parr reduction apparatus for 3 hr. The mixture was cooled and filtered and the filtrate was concentrated. The residue crystallized when it was stirred with 3:1 diethyl ether-acetone. Separation of the precipitate gave 13.7 g (97%) of white powder; m.p. 160°-163° C.

reactant | trans-4-chloro-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide | 49.5 mmoles, 14 g | ClC1=CC=C(C(=O)N(C)[C@@H]2CN(C[C@H]2O)CC)C=C1 | C14H19ClN2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | ca. 0.5 g | [Pd] | Pd
product | Trans-N-(1-ethyl-4-hydroxy-3-pyrrolidinyl)-N-methylbenzamide Hydrochloride | 13.7 g, 97% | Cl.C(C)N1C[C@H]([C@@H](C1)O)N(C(C1=CC=CC=C1)=O)C | InChI=1S/C14H20N2O2.ClH/c1-3-16-9-12(13(17)10-16)15(2)14(18)11-7-5-4-6-8-11;/h4-8,12-13,17H,3,9-10H2,1-2H3;1H/t12-,13-;/m1./s1
